US07067540B2
Step 3. Preparation of N-[3-bromo-1-(3-fluorobenzyl)-2-oxo-1,2-dihydropyridin-4-yl]-4-fluorobenzamide
To a mixture of 4-fluoro-N-[1-(3-fluorobenzyl)-2-oxo-1,2-dihydropyridin-4-yl]benzamide (0.305 g, 0.89 mmol) in acetonitrile (7 mL) was added NBS (0.159 g, 0.89 mmol). The reaction mixture stirred at room temperature for 1.5 hours. The filtrate was removed under reduced pressure and the residue was purified by flash column chromatography (ethyl acetate/hexane 1:1 v/v). The fractions were concentrated. 1H-NMR (CD3OD, 400 MHz) δ 8.03 (m, 2H), 7.79 (d, 1H, J=7.6 Hz), 7.47 (d, 1H, J=8.0 Hz), 7.28 (m, 3H), 7.12 (m, 3H), 5.23 (s, 2H); ES-HRMS m/z 419.0202/421.0191 (M+H calculated for C19H14N2O2F2Br requires 419.0201/421.0183).

reactant | 4-fluoro-N-[1-(3-fluorobenzyl)-2-oxo-1,2-dihydropyridin-4-yl]benzamide | 0.89 mmol, 0.305 g | FC1=CC=C(C(=O)NC2=CC(N(C=C2)CC2=CC(=CC=C2)F)=O)C=C1 | C19H14F2N2O2
reactant | NBS | 0.89 mmol, 0.159 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | N-[3-bromo-1-(3-fluorobenzyl)-2-oxo-1,2-dihydropyridin-4-yl]-4-fluorobenzamide | BrC=1C(N(C=CC1NC(C1=CC=C(C=C1)F)=O)CC1=CC(=CC=C1)F)=O | C19H13BrF2N2O2
